US07727985B2
To a suspension of 6,6-dimethyl-morpholine-3-carboxylic acid (5.56 g, 34.9 mmol) in dioxane (58 mL) was added aqueous potassium carbonate (1M, 58 mL). To the resulting clear colorless solution was added di-tert-butyl dicarbonate (9.14 g, 41.9 mmol). The solution was stirred at room temperature overnight. The reaction mixture was diluted with water (200 mL) and the pH of the solution was confirmed to be approximately 7. The reaction mixture was poured into a separatory funnel and extracted with Et2O (2×100 mL) to remove excess di-tert-butyl dicarbonate. The aqueous layer was acidified by addition of 6N aqueous HCl with stirring until a pH of 3 was reached. The mixture was quickly extracted with Et2O (2×200 mL) and the organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to yield a clear colorless oil. The oil was dissolved in Et2O (50 mL), triturated with hexanes (150 mL), and concentrated to yield a white solid. The solid product was placed on the high-vacuum pump for several hours, after which 8.85 g of 6,6-dimethyl-morpholine-3,4-dicarboxylic acid 4-tert-butyl ester was obtained (97% yield).

reactant | 6,6-dimethyl-morpholine-3-carboxylic acid | 34.9 mmol, 5.56 g | CC1(OCC(NC1)C(=O)O)C | C7H13NO3
reactant | potassium carbonate | 1M, 58 mL | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 41.9 mmol, 9.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 58 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 mL | O | H2O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 6,6-dimethyl-morpholine-3,4-dicarboxylic acid 4-tert-butyl ester | 8.85 g, 97% yield | C(C)(C)(C)OC(=O)N1C(COC(C1)(C)C)C(=O)O | C12H21NO5
